2183-10-14 06:48:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: respiratory distress
   24 Hour Events:
   - received 2 units FFP and 10 mg IV vit K with reversal of INR from
   12.5 to 1.6
   - agitated/anxious overnight.  Delerium vs anxiety around dyspnea.
   Received 25 mg trazodone and single dose of zyprexa with good effect
   - K+ and Mg2+ repleted
   - home BP meds held
   - coumadin held
   Allergies:
   Amlodipine
   Cough;
   Last dose of Antibiotics:
   Ceftriaxone - [**2183-10-14**] 03:11 AM
   Azithromycin - [**2183-10-14**] 03:45 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2183-10-13**] 06:20 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:  no nausea, + anxiety around dyspnea, + visual
   hallucinations (loaf of bread at foot of bed, family members that
   [**Name2 (NI) **]
t there)
   Flowsheet Data as of  [**2183-10-14**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (99
   HR: 109 (95 - 112) bpm
   BP: 160/135(140) {127/45(70) - 175/135(140)} mmHg
   RR: 25 (16 - 32) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 58.3 kg (admission): 59.2 kg
             Total In:
                                                                    723 mL
                                                                  1,820 mL
   PO:
             TF:
   IVF:
                                                                    723 mL
                                                                  1,820 mL
   Blood products:
   Total out:
                                                                    700 mL
                                                                    400 mL
   Urine:
                                                                    700 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     23 mL
                                                                  1,420 mL
   Respiratory support
   O2 Delivery Device: Medium conc mask
   SpO2: 95%
   ABG: 7.48/36/78.[**Numeric Identifier 274**]/20/3
   Physical Examination
   GEN:  appears uncomfortable, audibly wheezing
   HEENT:  conjunctiva pink, no [**Doctor First Name **], mucous membranes moist, oropharynx
   clear
   CHEST:  expiratory wheezes throughout, intermittent rales at base L >
   R, using accessory muscles of breathing
   HEART:  tachycardic, regular.  Normal S1/S2, no murmurs, rubs, gallops
   appreciated
   ABD:  soft, non-tender, non-distended
   EXTR:  warm and well-perfused, cap refill < 2 sec, ecchymoses on L
   antecubital fossa, L posterior hand.  2 x 3 cm fluctuant mass on L
   forearm at site of previous lab draw
   NEURO:  oriented to person, place, date.  Endorses anxiety
   Labs / Radiology
   321 K/uL
   10.1 g/dL
   268 mg/dL
   0.7 mg/dL
   20 mEq/L
   3.2 mEq/L
   19 mg/dL
   106 mEq/L
   139 mEq/L
   29.2 %
   14.9 K/uL
        [image002.jpg]
                             [**2183-10-13**]  03:28 PM
                             [**2183-10-13**]  06:11 PM
                             [**2183-10-13**]  08:21 PM
                             [**2183-10-14**]  02:20 AM
                             [**2183-10-14**]  05:30 AM
   WBC
   14.4
   16.6
   17.5
   14.9
   Hct
   29.4
   29.4
   30.1
   29.2
   Plt
   [**Telephone/Fax (3) 8594**]21
   Cr
   0.5
   0.6
   0.6
   0.7
   TCO2
   28
   Glucose
   135
   156
   268
   Other labs: PT / PTT / INR:18.1/28.6/1.6, Alk Phos / T Bili:/1.3,
   Differential-Neuts:88.3 %, Lymph:7.6 %, Mono:4.0 %, Eos:0.0 %,
   Albumin:3.2 g/dL, Ca++:7.7 mg/dL, Mg++:2.3 mg/dL, PO4:1.6 mg/dL
   CXR [**2183-10-13**]:  stable prominence of the right pulmonary hilum dating
   back to [**2173**]. No definite superimposed pneumonia or CHF.
   Head CT [**2183-10-13**]: no acute hemorrhage or major vascular territorial
   infarct. Old right frontal infarct. Chronic small vessel ischemic
   changes.
   Chest CT [**2183-10-13**]: no evidence of pulmonary embolism. Bilateral
   multifocal lung opacities, more on the left lower lobe. Multiple small
   mediastinal lymphnodes. Stable left lung post surgical changes.
   Recommended a follow up chest CT to assess for the resolution of these
   opacities and to rule out malignancy.
   Assessment and Plan
   88 yo F with afib on coumadin, HTN, PVD, h/o TIA and colon CA,
   presented with 10 days of URI symptoms, found to be hypoxic, also with
   melena, supratherapeutic INR and dropping HCT, admitted to the [**Hospital Unit Name 10**] for
   respiratory distress and GI bleed.
   .
   # Respiratory distress: Increased wob on face mask with appropriate O2
   sats.   Likely viral/atypical URT infection with reactive airways.  CXR
   and smoking history consistent with COPD.  Although less likely
   bacterial PNA, TB is a possibility given her history and enlarged
   mediastinal LAD.
   - send viral DFA panel
   - send sputum for gram stain and culture, if possible
   - 3 sputums for AFB, if possible.  Will touch base with PCP to
   determine if has been ruled out for TB in past
   - send legionella urinary antigen
   - continue ceftriaxone for empiric CAP coverage pending cultures
   - start azithromycin for atypical empiric CAP coverage pending cultures
   - start tamiflu for empiric influenza coverage pending DFA results.
   Presently unable to take POs, so will hold for now.
   - continue albuterol and ipratropium nebs Q 6hrs standing and Q2 hours
   PRN
   - start methylprednisolone for presumed COPD exacerbation versus
   reactive airways disease
   - start CPAP now for worsening respiratory status and increased work of
   breathing.  continue supplementary O2 as necessary, titrate to sats >
   90%
   - repeat ABG in PM or sooner for change in clinical status
   .
   #Acute blood loss anemia [**2-10**] GI bleed:  HCT 35.8 -> 33.7 -> 32.9 ->
   29.4.  Melena concerning for upper GI source in the context of
   supratherapeutic INR.  S/P vitamin K, FFP in the ED, INR now 1.6.
   - GI to EGD in AM if INR 1.5.  Will postpone given stable HCT and
   ongoing respiratory distress
   - pantoprazole IV BID
   - hold coumadin
   - HCT now stable.  Change Q4 hour HCT checks to twice daily
   - no transfusion for now, will consider transfusion for HCT < 27
   - cross matched 2 units pRBCs
   -2 large bore IVs, active type and cross
   -check orthostatics once more comfortable from a respiratory standpoint
   -Volume repletion.
   .
   # Coagulopathy: INR 12.5 in the setting of poor PO intake and warfarin
   administration.  Likely due to poor PO/vitamin K deficiency (though
   more rapid than usual).  No drug interactions could be found with her
   anti-tussive medication.
   -hold coumadin
   -Will give FFP for INR >2 or signs of bleeding
   -Trend Coags
   .
   #Diarrhea: [**Month (only) 11**] be [**2-10**] cathartic effect of melena or may be infectious.
   No risk factors recently for C. Diff.
   -send C. Diff and stool cultures
   .
   #Altered Mental Status: Likely delirium in the setting of GI bleed,
   poor sleep, poor PO intake. CT head negative and no focal neuro signs.
   - serial neuro exam
   - appropriate reorientation of patient
   - PRN Zyprexa if needed
   .
   #A-fib:  At home, rate controlled on metoprolol 100 mg PO daily.  HR
   <110 here, no hypotension.
   - hold metoprolol for concern for hypotension in setting of GI bleed.
   Also, B-blockade will mask tachycardia if re-bleeds.  If remains
   tachycardic with increased BPs here, could consider starting low dose
   IV metoprolol.
   - no rhythm control for now
   - INR now 1.6. Hold coumadin until GI bleed resolves.
   - discuss case with cardiologist about restarting coumadin.
   .
   # Hypertension:  At home, on HCTZ, amlodipine and metoprolol.
   Normotensive in ICU
   - hold home meds for now.
   .
   #Hyperbilirubinemia:  T bili mildly elevated.  Unlikely to represent
   biliary problem without [**Name2 (NI) 8576**] pain, more likely due to bleeding.
   Direct bilirubin mildly elevated
   - will follow
   #Hypokalemia: Possibly [**2-10**] GI losses.
   -replete K
   -q8h lytes.
   .
   # FEN: clinically volume depleted with thirst, dry mucous membranes.
   Not orthostatic.  K 2.5, Mg 1.7
   - replete K to goal 4.0
   - replete Mg to goal 2.0
   - IVF bolus 2 L plus fluids with Mg and K.  Titrate to urine output >
   30 cc/hr
   ICU Care
   Nutrition: NPO with risk of aspiration
   Glycemic Control:
   Lines:
   20 Gauge - [**2183-10-13**] 05:58 PM
   22 Gauge - [**2183-10-14**] 01:[**Street Address(2) 8597**] PICC given tenuous peripheral access
   Prophylaxis:
   DVT:  pneumoboots given concern for GI bleed and supratherapeutic INR
   Stress ulcer:  on IV PPI
   VAP:
   Comments:
   Communication:  Comments:  patient and son [**Name (NI) 117**]
   Code status:  DNR, but will tolerate short course intubation for acute
   illness
   Disposition:  Pending stability of HCT, s/p EGD, able to tolerate
   CLRS,  improvement in respiratory status

2183-10-14 09:21:00 Physician Attending Progress Note
Chief Complaint: GI bleed, anemia, pneumonia, COPD, acidosis,
   coagulopathy
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   INR improved this AM.
   Patient had some agitation during the night.
   Received albuterol and atrovent nebs along with solumedrol.
   24 Hour Events:
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Amlodipine
   Cough;
   Last dose of Antibiotics:
   Ceftriaxone - [**2183-10-14**] 03:11 AM
   Azithromycin - [**2183-10-14**] 03:45 AM
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2183-10-13**] 06:20 PM
   Other medications:
   atrovent, albuterol, tamiflu, prednisone
   Changes to medical and family history:
   Son indicates she has trouble swallowing at baseline.
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-10-14**] 09:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.7
C (98
   HR: 108 (95 - 112) bpm
   BP: 134/84(96) {127/45(70) - 175/135(140)} mmHg
   RR: 33 (16 - 33) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 58.3 kg (admission): 59.2 kg
             Total In:
                                                                    723 mL
                                                                  2,088 mL
   PO:
             TF:
   IVF:
                                                                    723 mL
                                                                  2,088 mL
   Blood products:
   Total out:
                                                                    700 mL
                                                                    400 mL
   Urine:
                                                                    700 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     23 mL
                                                                  1,688 mL
   Respiratory support
   O2 Delivery Device: Medium conc mask
   SpO2: 95%
   ABG: 7.48/36/78.[**Numeric Identifier 274**]/20/3
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic, Moderate
   respiratory distress
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI No(t) Normal, Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: 3+ with respiratory variation
   consistent with pulsus paradoxus)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   Wheezes : , No(t) Diminished: , No(t) Absent : , Rhonchorous: ),
   Diffuse coarse rhonchi. I/E=[**1-11**]. More congestion at left base
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Not assessed
   Labs / Radiology
   10.1 g/dL
   321 K/uL
   268 mg/dL
   0.7 mg/dL
   20 mEq/L
   3.2 mEq/L
   19 mg/dL
   106 mEq/L
   139 mEq/L
   29.2 %
   14.9 K/uL
        [image002.jpg]
                             [**2183-10-13**]  03:28 PM
                             [**2183-10-13**]  06:11 PM
                             [**2183-10-13**]  08:21 PM
                             [**2183-10-14**]  02:20 AM
                             [**2183-10-14**]  05:30 AM
   WBC
   14.4
   16.6
   17.5
   14.9
   Hct
   29.4
   29.4
   30.1
   29.2
   Plt
   [**Telephone/Fax (3) 8594**]21
   Cr
   0.5
   0.6
   0.6
   0.7
   TCO2
   28
   Glucose
   135
   156
   268
   Other labs: PT / PTT / INR:15.3/32.0/1.3, Alk Phos / T Bili:/1.3,
   Differential-Neuts:88.3 %, Lymph:7.6 %, Mono:4.0 %, Eos:0.0 %,
   Albumin:3.2 g/dL, Ca++:7.7 mg/dL, Mg++:2.3 mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
 ANXIETY
 WHEEZING
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   COPD WITH ACUTE EXACERBATION
   PNEUMONIA
   ACIDOSIS
   ANEMIA
   COAGULOPATHY
   DELIRIUM
   AFIB
   ===============
   Hct stable throught the night. INR fully corrected with vitamin D and
   FFP. Hemodynamically stable. Due for endoscopy this AM, but given
   respiratory status, would defer endoscopy - conscious sedation would
   probably require intubation and mechanical ventilation. Patient still
   appears volume depleted to me - dry oral mucosa and nearly 20 points
   orthostatic by pulse sitting up. Needs additional fluids.
   Continues on bronchodilators with increased work of breathing and
   evidence of airflow obstruction on exam. Maintain solumedrol. Her work
   of breathing appears even worse than yesterday. Consider BiPAP to
   alleviate muscle fatigue; pulsus paradoxus evident by palpation of
   radial pulse. Discussed with son that, if respiratory status worsens,
   she will need intubation and mechanical ventilation, and he would like
   us to pursue that course. Maintain antibiotics.
   Bicarb remains low. Would use LR for volume resuscitation rather than
   NS. Small anion gap this morning - worry about lactate from work of
   breathing.
   Mental status waxing and [**Doctor Last Name 282**] re: orientation. Head CT negative in ED
   for acute processes. Sleep deprivation and acute illness likely
   contributing to her mental status.
   Continues in afib. Holding beta blocker for now while giving fluids.
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2183-10-13**] 05:58 PM
   22 Gauge - [**2183-10-14**] 01:44 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP:
   Comments: VAP not applicable.
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2183-10-15 10:38:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, COPD, pneumonia, GI bleed, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   FIO2 weaned down to 50% throught the night. PEEP now at 12 on assist
   control. Plateau pressure 24 with VT 400. Suctioned for moderate amount
   of secretions last night.
   Urine output on the low side.
   24 Hour Events:
 MIDLINE - START [**2183-10-14**] 11:32 AM
 INVASIVE VENTILATION - START [**2183-10-14**] 04:52 PM
 BLOOD CULTURED - At [**2183-10-15**] 04:26 AM
   History obtained from Medical records
   Patient unable to provide history: Sedated, Intubated
   Allergies:
   Amlodipine
   Cough;
   Last dose of Antibiotics:
   Ceftriaxone - [**2183-10-15**] 03:00 AM
   Azithromycin - [**2183-10-15**] 04:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2183-10-14**] 11:20 AM
   Other medications:
   protonix, solumedrol, cholhexidine, insulin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-10-15**] 10:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.1
C (97
   HR: 69 (69 - 125) bpm
   BP: 110/55(69) {103/47(61) - 167/140(143)} mmHg
   RR: 20 (16 - 35) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 58.3 kg (admission): 59.2 kg
             Total In:
                                                                  4,098 mL
                                                                  1,061 mL
   PO:
             TF:
   IVF:
                                                                  4,098 mL
                                                                  1,061 mL
   Blood products:
   Total out:
                                                                    690 mL
                                                                    190 mL
   Urine:
                                                                    690 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,408 mL
                                                                    871 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 450) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 24 cmH2O
   SpO2: 100%
   ABG: 7.38/44/177/22/0
   Ve: 7.7 L/min
   PaO2 / FiO2: 354
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, No(t) Anxious, No(t) Diaphoretic, Sedated
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, Rub, (Murmur: No(t) Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : Anterior and lateral)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, No(t) Oriented (to): , Movement: No spontaneous
   movement, Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   279 K/uL
   152 mg/dL
   0.7 mg/dL
   22 mEq/L
   4.1 mEq/L
   25 mg/dL
   112 mEq/L
   142 mEq/L
   26.0 %
   17.0 K/uL
        [image002.jpg]
                             [**2183-10-13**]  03:28 PM
                             [**2183-10-13**]  06:11 PM
                             [**2183-10-13**]  08:21 PM
                             [**2183-10-14**]  02:20 AM
                             [**2183-10-14**]  05:30 AM
                             [**2183-10-14**]  12:45 PM
                             [**2183-10-14**]  08:08 PM
                             [**2183-10-14**]  11:25 PM
                             [**2183-10-14**]  11:55 PM
                             [**2183-10-15**]  04:14 AM
   WBC
   14.4
   16.6
   17.5
   14.9
   17.0
   Hct
   29.4
   29.4
   30.1
   29.2
   26.0
   Plt
   [**Telephone/Fax (3) 8594**]21
   279
   Cr
   0.5
   0.6
   0.6
   0.7
   0.7
   0.7
   TCO2
   28
   25
   27
   27
   Glucose
   135
   156
   268
   151
   152
   Other labs: PT / PTT / INR:14.4/26.3/1.2, ALT / AST:[**10-26**], Alk Phos / T
   Bili:64/0.6, Differential-Neuts:88.3 %, Lymph:7.6 %, Mono:4.0 %,
   Eos:0.0 %, Lactic Acid:1.2 mmol/L, Albumin:3.2 g/dL, LDH:247 IU/L,
   Ca++:7.8 mg/dL, Mg++:2.4 mg/dL, PO4:1.6 mg/dL
   Microbiology: Influenza negative.
   Assessment and Plan
 HYPOXEMIA
 ANXIETY
 WHEEZING
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   ANEMIA
   ACUTE RESPIRATORY FAILURE
   =================
   Patient has made substantial improvement over the past 12 hours.
   Oxygenation much improved as is CXR; both suggest that we have
   recruited alveoli. Patient was suctioned for considerable secretions;
   these may have contributed to her wheezing and airway resistance. Would
   quickly wean prednisone. If she continues to do well, would reduce PEEP
   to 10 (placed on FIO2 of 0.4 during rounds). I am less convinced that
   she has ARDS now. Will reduce sedation and as she awakens, will switch
   to PSV.
   Continue present antibiotics. DFA negative for influenza.
   Hct down a few points. No bowel movements. Not at transfusion
   threshold. No coffee grounds in gastric aspirate. Continue to monitor.
   BUN/Creat ratio elevated and urine output is low. I think she may be
   somewhat volume depleted. Would bolus with crystalloid today to see if
   urine output responds.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2183-10-13**] 05:57 PM
   Midline - [**2183-10-14**] 11:32 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2183-10-16 06:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: respiratory failure and GI bleed
   24 Hour Events:
   - FiO2 turned down to 40%
   - sedation weaned, stopped for few hours this AM, needed to add back
   Fentanyl for some agitation
   - f/u remainder of sputum cultures (other viral cultures, AFB)
   - GI will not do EGD at this time bc hasn't had another melenotic stool
   recently
   - PM Hct stable at 31
   - LR bolused for decreasing urine output and BUN/Cr rising slowly
   - nursing concern about sterility of Midline catheter-- easy for
   infection to enter blood stream; will hold off on changing line for 48
   hrs -- if it appears she'll need long-term [**Last Name (LF) 114**], [**First Name3 (LF) 116**] call IR to change
   over wire
   - on minimal sedation all day; HR up to low 100s, increased to 120s w
   agitation --> restarted beta-blocker (but short acting and start w low
   dose)
   - Vent settings weaned to pressure support and [**5-13**]
   - tube feeds stopped at 2am in anticipation of possible extubation
   - Around midnight, she had some myoclonic-like movements noted mostly
   in right shoulder, neck and legs; nurse noticed some rigid posturing of
   arms briefly, and patient's eyes were looking off at left and lateral
   gaze; pupils symmetric and sluggishly reactive, and pt squinted w
   flashlight in her eyes; gaze corrected after a few minutes, but
   myoclonic jerking noted briefly again
   - increased SS insulin slightly b/c had a couple elevated sugars around
   200
   Allergies:
   Amlodipine
   Cough;
   Last dose of Antibiotics:
   Ceftriaxone - [**2183-10-16**] 02:00 AM
   Azithromycin - [**2183-10-16**] 04:22 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Heparin Sodium - [**2183-10-15**] 06:22 PM
   Pantoprazole (Protonix) - [**2183-10-15**] 09:55 PM
   Heparin Sodium (Prophylaxis) - [**2183-10-15**] 09:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-10-16**] 06:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.8
   HR: 78 (69 - 109) bpm
   BP: 129/55(73) {106/50(65) - 136/72(88)} mmHg
   RR: 11 (10 - 23) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 58.3 kg (admission): 59.2 kg
   Height: 62 Inch
             Total In:
                                                                  3,036 mL
                                                                    461 mL
   PO:
             TF:
                                                                    145 mL
                                                                     78 mL
   IVF:
                                                                  2,771 mL
                                                                    383 mL
   Blood products:
   Total out:
                                                                    620 mL
                                                                    170 mL
   Urine:
                                                                    620 mL
                                                                    170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,416 mL
                                                                    291 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 525 (525 - 525) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 12
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 42
   PIP: 18 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: 7.46/35/105/23/1
   Ve: 4.7 L/min
   PaO2 / FiO2: 263
   Physical Examination
   GEN:  awake, able to follow commands
   HEENT:  conjunctiva pink, no [**Doctor First Name **], MMM
   CHEST:  lungs CTAB, no inspiratory crackles or wheezes
   HEART:  irregularly irregular, normal rate, normal S1, S2, no thrills
   or heaves, no murmurs, intermittent gallop at apex
   ABD:  soft, non-tender, non-distended
   EXTR:  marked swelling of upper extremities bilaterally, lines in place
   without erythema or edema, warm and well perfused, good cap refill
   throughout, 2+ radial pulses bilaterally, 1+ pulses bilaterally dp/pt
   [**Name (NI) 610**] / Radiology
   341 K/uL
   9.7 g/dL
   151 mg/dL
   0.7 mg/dL
   23 mEq/L
   4.0 mEq/L
   29 mg/dL
   111 mEq/L
   144 mEq/L
   30.1 %
   22.1 K/uL
        [image002.jpg]
                             [**2183-10-14**]  05:30 AM
                             [**2183-10-14**]  12:45 PM
                             [**2183-10-14**]  08:08 PM
                             [**2183-10-14**]  11:25 PM
                             [**2183-10-14**]  11:55 PM
                             [**2183-10-15**]  04:14 AM
                             [**2183-10-15**]  10:54 AM
                             [**2183-10-15**]  09:16 PM
                             [**2183-10-16**]  03:37 AM
                             [**2183-10-16**]  03:42 AM
   WBC
   14.9
   17.0
   22.1
   Hct
   29.2
   26.0
   28.1
   30.1
   Plt
   [**Telephone/Fax (3) 8624**]
   Cr
   0.7
   0.7
   0.7
   0.7
   TCO2
   25
   27
   27
   27
   26
   Glucose
   [**Telephone/Fax (3) 8625**]51
   Other [**Telephone/Fax (3) **]: PT / PTT / INR:14.7/22.8/1.3, ALT / AST:[**10-26**], Alk Phos / T
   Bili:64/0.6, Differential-Neuts:88.3 %, Lymph:7.6 %, Mono:4.0 %,
   Eos:0.0 %, Lactic Acid:1.2 mmol/L, Albumin:3.2 g/dL, LDH:247 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.4 mg/dL, PO4:1.5 mg/dL
   CXR:  increasing infiltrates, R>L, pulmonary edema versus atelectasis
   Assessment and Plan
   88 yo F with afib on coumadin, HTN, PVD, h/o TIA and colon CA,
   presented with 10 days of URI symptoms, found to be hypoxic, also with
   melena, supratherapeutic INR and dropping HCT, admitted to the [**Hospital Unit Name 10**] for
   respiratory distress and GI bleed.
   .
   # Respiratory distress:   Patient did well on pressure support [**12-13**] for
   a couple of hours and continued to do well on PS 8/5.  Now on PS 5/5.
   SBT successful x 1 hr with one period of apnea attributed to mucous
   plug.  Possible barriers to extubation include: pulmonary edema,
   atelectasis on lower PEEP
   - try to extubate today.  Decision by 5 pm depending on diuresis and
   overall clinical picture
   - f/u sputum culture and 2 remaining sputum AFB
   - continue ceftriaxone for empiric CAP coverage pending cultures, total
   7 day course
   - continue azithromycin for atypical empiric CAP coverage pending
   cultures, total 7 day course
   - continue albuterol and ipratropium inhalers Q 6hrs standing and Q2
   hours PRN
   - methylprednisolone rapid taper, 25% per day.
   - diurese starting with 20 mg IV lasix, goal net negative 1 L
   .
   #Acute blood loss anemia [**2-10**] GI bleed:  HCT 35.8 -> 33.7 -> 32.9 ->
   29.4 -> 26, now 30.  Melena in ED concerning for upper GI source in the
   context of supratherapeutic INR.  S/P vitamin K, FFP in the ED, INR now
   1.2.   No evidence of active bleeding currently
   -midline in place
   -follow HCT
   #neuro:  myclonic movements last night with temporary fixed L lateral
   gaze.  Transient.  Non-focal symptoms more characteristic of
   encephalopathy as opposed to CVA.  Likely etiology is side effect of
   fentanyl.
   -minimize fentanyl dosing for sedation
   -good neuro exam once awake and extubated
   -no need for imaging at this point
   .
   # Coagulopathy: INR stable at 1.3
   .
   #Diarrhea:  No diarrhea currently
   ..
   #A-fib:   started on low dose short acting metoprolol last night with
   good control
   - continue metoprolol 12.5 mg [**Hospital1 **] and follow heart rates
   .
   # Hypertension:  At home, on HCTZ, amlodipine and metoprolol.
   Normotensive in ICU
   - hold home meds for now.
   ICU Care
   Nutrition: tube feeds held pending extubation decision
   Glycemic Control:  insulin SS
   Lines:
   20 Gauge - [**2183-10-13**] 05:57 PM
   Midline - [**2183-10-14**] 11:32 AM
   Prophylaxis:
   DVT: pneumoboots and subq heparin
   Stress ulcer:  IV PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  DNR, but would tolerate intubation for acute illness
   Disposition:  ICU pending extubation and stabalization from respiratory
   perspective
   12:55

2183-10-16 12:21:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, COPD, pneumonia, anemia, GI bleed
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient placed on PSV 5/5 this AM. Sedation being decreased. Noted to
   have periodic myoclonic jerks last night. Hct stable.
   Patient had 2.4 L positive fluid balance yesterday.
   24 Hour Events:
 EKG - At [**2183-10-15**] 05:32 PM
   History obtained from [**Hospital 31**] Medical records
   Patient unable to provide history: intubated
   Allergies:
   Amlodipine
   Cough;
   Last dose of Antibiotics:
   Ceftriaxone - [**2183-10-16**] 02:00 AM
   Azithromycin - [**2183-10-16**] 04:22 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Heparin Sodium - [**2183-10-15**] 06:22 PM
   Pantoprazole (Protonix) - [**2183-10-15**] 09:55 PM
   Heparin Sodium (Prophylaxis) - [**2183-10-16**] 06:33 AM
   Furosemide (Lasix) - [**2183-10-16**] 11:20 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-10-16**] 12:20 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 93 (72 - 124) bpm
   BP: 155/72(91) {115/50(65) - 159/87(102)} mmHg
   RR: 21 (10 - 31) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 58.3 kg (admission): 59.2 kg
   Height: 62 Inch
             Total In:
                                                                  3,036 mL
                                                                    840 mL
   PO:
             TF:
                                                                    145 mL
                                                                     78 mL
   IVF:
                                                                  2,771 mL
                                                                    701 mL
   Blood products:
   Total out:
                                                                    620 mL
                                                                  1,250 mL
   Urine:
                                                                    620 mL
                                                                  1,250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,416 mL
                                                                   -410 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 0 (0 - 400) mL
   Vt (Spontaneous): 366 (366 - 525) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 38
   PIP: 11 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: 7.46/35/105/23/1
   Ve: 7.1 L/min
   PaO2 / FiO2: 263
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, No(t) NG
   tube, OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   Anterior and lateral)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace edema, Left lower
   extremity edema: Trace, No(t) Cyanosis, Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Unable to assess on vent, Movement: Purposeful,
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   341 K/uL
   151 mg/dL
   0.7 mg/dL
   23 mEq/L
   4.0 mEq/L
   29 mg/dL
   111 mEq/L
   144 mEq/L
   30.1 %
   22.1 K/uL
        [image002.jpg]
                             [**2183-10-14**]  05:30 AM
                             [**2183-10-14**]  12:45 PM
                             [**2183-10-14**]  08:08 PM
                             [**2183-10-14**]  11:25 PM
                             [**2183-10-14**]  11:55 PM
                             [**2183-10-15**]  04:14 AM
                             [**2183-10-15**]  10:54 AM
                             [**2183-10-15**]  09:16 PM
                             [**2183-10-16**]  03:37 AM
                             [**2183-10-16**]  03:42 AM
   WBC
   14.9
   17.0
   22.1
   Hct
   29.2
   26.0
   28.1
   30.1
   Plt
   [**Telephone/Fax (3) 8624**]
   Cr
   0.7
   0.7
   0.7
   0.7
   TCO2
   25
   27
   27
   27
   26
   Glucose
   [**Telephone/Fax (3) 8625**]51
   Other labs: PT / PTT / INR:14.7/22.8/1.3, ALT / AST:[**10-26**], Alk Phos / T
   Bili:64/0.6, Differential-Neuts:88.3 %, Lymph:7.6 %, Mono:4.0 %,
   Eos:0.0 %, Lactic Acid:1.2 mmol/L, Albumin:3.2 g/dL, LDH:247 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.4 mg/dL, PO4:1.5 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPOXEMIA
 ANXIETY
 WHEEZING
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   ANEMIA
   =================
   Patient doing well on reduced ventilatory support. JVP to angle of jaw
   today (patient at 60 degrees) and CXR shows increased interstitial
   markings and vascular redistribution consistent with volume overload.
   Will diurese 1-1.5 L negative and assess for extubation at that time.
   WBC up today, but patient afebrile. Continue on present antibiotics.
   Wheezing resolved. Continue to taper steroids.
   Hct stable. No evidence of active bleeding. Continue to defer
   endoscopy. Not at transfusion threshold.
   ICU Care
   Nutrition: Tube feedings
 hold for possible extubation
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2183-10-13**] 05:57 PM
   Midline - [**2183-10-14**] 11:32 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2183-10-17 06:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: respiratory failure
   24 Hour Events:
   - sedation and ventilator settings weaned yesterday, largely
   well-tolerated
   - decision not to extubate yesterday due to secretions
   - agitated overnight with HR to 120s, motioned to remove tube.
   Sedation increased and metoprolol 12.5 mg PO given.  HR responded to
   80s-90s.
   - tube feeds stopped at 4am
   - good response to lasix with net 2 L negative yesterday
   Allergies:
   Amlodipine
   Cough;
   Last dose of Antibiotics:
   Ceftriaxone - [**2183-10-17**] 02:29 AM
   Azithromycin - [**2183-10-17**] 03:30 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2183-10-16**] 11:20 AM
   Other medications:
   Changes to medical and family history:
   Son concerned about macular degeneration in good eye, concerned that
   she cannot see him anymore and whether something could have happened
   here
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-10-17**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.6
C (97.8
   HR: 104 (71 - 129) bpm
   BP: 150/65(84) {113/45(64) - 170/87(102)} mmHg
   RR: 19 (7 - 31) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 58.3 kg (admission): 59.2 kg
   Height: 62 Inch
             Total In:
                                                                  1,370 mL
                                                                    471 mL
   PO:
             TF:
                                                                    145 mL
                                                                     41 mL
   IVF:
                                                                  1,165 mL
                                                                    430 mL
   Blood products:
   Total out:
                                                                  3,370 mL
                                                                    435 mL
   Urine:
                                                                  3,370 mL
                                                                    435 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,000 mL
                                                                     36 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Set): 400 (0 - 400) mL
   Vt (Spontaneous): 530 (366 - 560) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 10
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 29
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: ///25/
   Ve: 5 L/min
   Physical Examination
   GEN:  awake, able to follow commands
   HEENT:  conjunctiva pink, no [**Doctor First Name **], MMM
   CHEST:  lungs CTAB, no inspiratory crackles or wheezes
   HEART:  irregularly irregular, normal rate, normal S1, S2, no thrills
   or heaves, no murmurs, intermittent gallop at apex
   ABD:  soft, non-tender, non-distended
   EXTR:  marked swelling of upper extremities bilaterally, lines in place
   without erythema or edema, warm and well perfused, good cap refill
   throughout, 2+ radial pulses bilaterally, 1+ pulses bilaterally dp/pt
   [**Name (NI) 610**] / Radiology
   356 K/uL
   9.9 g/dL
   181 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.9 mEq/L
   23 mg/dL
   101 mEq/L
   138 mEq/L
   30.1 %
   21.0 K/uL
        [image002.jpg]
                             [**2183-10-14**]  08:08 PM
                             [**2183-10-14**]  11:25 PM
                             [**2183-10-14**]  11:55 PM
                             [**2183-10-15**]  04:14 AM
                             [**2183-10-15**]  10:54 AM
                             [**2183-10-15**]  09:16 PM
                             [**2183-10-16**]  03:37 AM
                             [**2183-10-16**]  03:42 AM
                             [**2183-10-16**]  03:34 PM
                             [**2183-10-17**]  03:28 AM
   WBC
   17.0
   22.1
   21.0
   Hct
   26.0
   28.1
   30.1
   30.1
   Plt
   279
   341
   356
   Cr
   0.7
   0.7
   0.7
   0.6
   0.7
   TCO2
   27
   27
   27
   26
   Glucose
   151
   152
   151
   151
   181
   Other [**Year (4 digits) **]: PT / PTT / INR:14.7/22.8/1.3, ALT / AST:[**10-26**], Alk Phos / T
   Bili:64/0.6, Differential-Neuts:88.3 %, Lymph:7.6 %, Mono:4.0 %,
   Eos:0.0 %, Lactic Acid:1.2 mmol/L, Albumin:3.2 g/dL, LDH:247 IU/L,
   Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   CXR:  interval improvement in pulmonary edema/pleural
   effusions/atelectasis
   Assessment and Plan
   88 yo F with afib on coumadin, HTN, PVD, h/o TIA and colon CA,
   presented with 10 days of URI symptoms, found to be hypoxic, also with
   melena, supratherapeutic INR and dropping HCT, admitted to the [**Hospital Unit Name 10**] for
   respiratory distress and GI bleed.
   .
   # Respiratory distress:   Patient did well on pressure support 5/0.
   SBT successful this AM.  Sedation weaned off, versed off, fentanyl at
   25.
   - extubate today
   - f/u sputum culture and 1 remaining sputum AFB
   - continue ceftriaxone for empiric CAP coverage pending cultures, day
   [**5-15**] day course
   - continue azithromycin for atypical empiric CAP coverage pending
   cultures, day [**5-15**] day course
   - continue albuterol and ipratropium nebs Q 6hrs standing and Q2 hours
   PRN
   - methylprednisolone rapid taper, 25% per day.  Continue pending speech
   and swallow eval.
   - diuresed with 20 mg IV lasix this AM, goal net negative 1 L today
   .
   #Acute blood loss anemia [**2-10**] GI bleed:  HCT stable.  Melena in ED
   concerning for upper GI source in the context of supratherapeutic INR.
   S/P vitamin K, FFP in the ED, INR now 1.2.   No evidence of active
   bleeding currently
   -midline in place
   -follow HCT
   #neuro:  myclonic movements last night with temporary fixed L lateral
   gaze.  Transient.  Non-focal symptoms more characteristic of
   encephalopathy as opposed to CVA.  Likely etiology is side effect of
   fentanyl.
   -neuro exam after extubation
   -no need for imaging at this point
   #Leukocytosis:  possible etiologies include pneumonia, steroids, new
   infection.  WBC 21 today, out of proportion to expected increase after
   steroids, covered for bacterial pneumonia.  Afebrile.
   - check U/A
   - follow WBC and fever curve
   .
   # Coagulopathy: INR stable at 1.3
   .
   #Diarrhea:  No diarrhea currently
   ..
   #A-fib:   HR into 120s in context of agitation overnight.  HR reduced
   to 80s-90s after increase in sedation and PO 12.5 metoprolol
   - continue metoprolol 12.5 mg [**Hospital1 **] pending speech and swallow eval.
   - follow heart rates
   - PRN lopressor IV pending speech and swallow eval.
   .
   # Hypertension:  At home, on HCTZ, amlodipine and metoprolol.
   Normotensive in ICU
   - hold home meds for now.
   - follow BP and can re-start home meds as needed pending speech and
   swallow eval.
   - can use PRN lopressor IV until speech and swallow passed.
   ICU Care
   Nutrition: tube feeds, held since 4am.  NPO pending speech and swallow
   eval
   Glycemic Control:  insulin SS
   Lines:
   20 Gauge - [**2183-10-13**] 05:57 PM
   Midline - [**2183-10-14**] 11:32 AM
   Prophylaxis:
   DVT: pneumoboots and subq heparin
   Stress ulcer:  IV PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  DNR, but would tolerate intubation for acute illness
   Disposition:  ICU pending extubation and stabalization from respiratory
   perspective
   10:02
   ------ Protected Section ------
   PGY-1 Addendum: I have seen and examined the patient and agree with the
   MSIV note as above, with the following additions:
   Physical Exam:
    Gen: NAD, awake, follows commands, will attempt to answer questions
   despite ETT
   HEENT: MMM, no cervical LAD, +ETT
   Lungs: bibasilar crackles with scattered wheezes anteriorly
   CV: irregularly irregular, no murmurs appreciated
   Abd: +BS, soft, nt/nd
   Ext: trace b/l edema
   A/P:
   Resp failure: likely extubation this morning, will d/c all sedation at
   this point and give another 20mg IV lasix to decrease pulmonary edema
   prior to extubation
   Leukocytosis: patient has been on high dose steroids since admission,
   current white count is not out of proportion to steroid effect, will
   continue to monitor and complete empiric course of ceftriaxone and
   azithromycin for presumed CAP
   Myoclonic Movements: transient o/n, can be seen with patient
s on
   fentanyl, will continue to monitor post discontinuation of fentanyl,
   repeat neuro exam off sedation, no imaging at this time
   ------ Protected Section Addendum Entered By:[**Name (NI) 3887**] [**Last Name (NamePattern1) 8645**], MD
   on:[**2183-10-17**] 20:35 ------

2183-10-17 09:37:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure, pneumonia, GI bleed, anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient maintained on PSV through the night. Had some agitation as
   sedation weaned. RSBI 29 this AM.
   Diuresed with negative 2L fluid balance yesterday.
   Afebrile.
   24 Hour Events:
 SPUTUM CULTURE - At [**2183-10-17**] 06:29 AM
   History obtained from Medical records
   Patient unable to provide history: Sedated, Intubated
   Allergies:
   Amlodipine
   Cough;
   Last dose of Antibiotics:
   Ceftriaxone - [**2183-10-17**] 02:29 AM
   Azithromycin - [**2183-10-17**] 03:30 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2183-10-17**] 07:28 AM
   Other medications:
   protonix, VAP protocol, insulin, atrovent, albuterol, heparin sc,
   prednisone, lopressor
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-10-17**] 09:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.3
C (97.4
   HR: 94 (71 - 129) bpm
   BP: 132/60(77) {113/45(64) - 170/87(102)} mmHg
   RR: 18 (7 - 25) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 58.3 kg (admission): 59.2 kg
   Height: 62 Inch
             Total In:
                                                                  1,370 mL
                                                                    509 mL
   PO:
             TF:
                                                                    145 mL
                                                                     41 mL
   IVF:
                                                                  1,165 mL
                                                                    468 mL
   Blood products:
   Total out:
                                                                  3,370 mL
                                                                    535 mL
   Urine:
                                                                  3,370 mL
                                                                    535 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,000 mL
                                                                    -26 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 594 (366 - 594) mL
   PS : 5 cmH2O
   RR (Set): 10
   RR (Spontaneous): 28
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 29
   PIP: 6 cmH2O
   SpO2: 100%
   ABG: ///25/
   Ve: 4.8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   [**Year (4 digits) 610**] / Radiology
   9.9 g/dL
   356 K/uL
   181 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.9 mEq/L
   23 mg/dL
   101 mEq/L
   138 mEq/L
   30.1 %
   21.0 K/uL
        [image002.jpg]
                             [**2183-10-14**]  08:08 PM
                             [**2183-10-14**]  11:25 PM
                             [**2183-10-14**]  11:55 PM
                             [**2183-10-15**]  04:14 AM
                             [**2183-10-15**]  10:54 AM
                             [**2183-10-15**]  09:16 PM
                             [**2183-10-16**]  03:37 AM
                             [**2183-10-16**]  03:42 AM
                             [**2183-10-16**]  03:34 PM
                             [**2183-10-17**]  03:28 AM
   WBC
   17.0
   22.1
   21.0
   Hct
   26.0
   28.1
   30.1
   30.1
   Plt
   279
   341
   356
   Cr
   0.7
   0.7
   0.7
   0.6
   0.7
   TCO2
   27
   27
   27
   26
   Glucose
   151
   152
   151
   151
   181
   Other [**Year (4 digits) **]: PT / PTT / INR:14.7/22.8/1.3, ALT / AST:[**10-26**], Alk Phos / T
   Bili:64/0.6, Differential-Neuts:88.3 %, Lymph:7.6 %, Mono:4.0 %,
   Eos:0.0 %, Lactic Acid:1.2 mmol/L, Albumin:3.2 g/dL, LDH:247 IU/L,
   Ca++:7.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.9 mg/dL
   Imaging: CXR: improved interstitial infiltrates consistent with
   improved interstitial edema
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 HYPOXEMIA
 ANXIETY
 WHEEZING
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   ANEMIA
   PNEUMONIA
   ========================
   Patient's secretions improved overnight. Patient has been diuresed.
   Patient has leak around ETT when cuff emptied. RSBI low. Patient
   exutbated on rounds.Gag reflex is minimal. Will have to watch her
   closely re: ability to handle secretions today. Speech and swallow to
   evaulate. Maintain negative 0.5-1.0 L today. WBC up but patient
   afebrile (on steroids).
   Completing course of antibiotics. Third AFB has been sent.
   Hct stable.  No evidence of active bleeding. Not at transfusion
   threshold.
   Continue to taper steroids.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2183-10-13**] 05:57 PM
   Midline - [**2183-10-14**] 11:32 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments: Patient now extubated
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I neglected to document PE from rounds:
   Patient awake and responsive. Chest clear anterior and lateral lung
   fields. S1 and S2 normal. No gallop. Abdomen with active bowel sounds.
   Non tender. No peripheral edema. Skin warm and well perfused.
   ------ Protected Section Addendum Entered By:[**Name (NI) 161**] [**Last Name (NamePattern1) **], MD
   on:[**2183-10-17**] 10:03 ------

2183-10-18 07:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Extubated morning of [**10-17**]
   - I/O goal: -500 to 1L, but patient was overall -3.5L over the prior
   24h
   - very agitated post extubation-->responded well to haldol 2mg
   - I/O was -3.5L, pt with continued poor po intake, seems to mobilizing
   her edema, only received 20mg IV lasix in morning
   Allergies:
   Amlodipine
   Cough;
   Last dose of Antibiotics:
   Ceftriaxone - [**2183-10-18**] 02:06 AM
   Azithromycin - [**2183-10-18**] 04:01 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2183-10-17**] 07:28 AM
   Haloperidol (Haldol) - [**2183-10-17**] 11:20 AM
   Heparin Sodium (Prophylaxis) - [**2183-10-17**] 10:16 PM
   Metoprolol - [**2183-10-18**] 12:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2183-10-18**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 88 (81 - 122) bpm
   BP: 140/64(80) {129/48(66) - 169/83(105)} mmHg
   RR: 20 (14 - 27) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 58.3 kg (admission): 59.2 kg
   Height: 62 Inch
             Total In:
                                                                    656 mL
                                                                    432 mL
   PO:
             60 mL
   TF:
                                                                     41 mL
   IVF:
                                                                    615 mL
                                                                    372 mL
   Blood products:
   Total out:
                                                                  4,225 mL
                                                                  1,110 mL
   Urine:
                                                                  4,225 mL
                                                                  1,110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,569 mL
                                                                   -678 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: Standby
   PEEP: 5 cmH2O
   FiO2: 35%
   SpO2: 98%
   ABG: ///26/
   Physical Examination
   Gen: NAD, awake, follows commands, very interactive, carries on
   conversations
   HEENT: MMM, no cervical LAD
   Lungs: bibasilar crackles with scattered wheezes anteriorly
   CV: irregularly irregular, no murmurs appreciated
   Abd: +BS, soft, nt/nd
   Ext: trace b/l edema
   Labs / Radiology
   385 K/uL
   9.7 g/dL
   117 mg/dL
   0.5 mg/dL
   26 mEq/L
   4.0 mEq/L
   13 mg/dL
   102 mEq/L
   140 mEq/L
   28.2 %
   20.3 K/uL
        [image002.jpg]
                             [**2183-10-14**]  11:25 PM
                             [**2183-10-14**]  11:55 PM
                             [**2183-10-15**]  04:14 AM
                             [**2183-10-15**]  10:54 AM
                             [**2183-10-15**]  09:16 PM
                             [**2183-10-16**]  03:37 AM
                             [**2183-10-16**]  03:42 AM
                             [**2183-10-16**]  03:34 PM
                             [**2183-10-17**]  03:28 AM
                            [**2183-10-18**]  04:25 AM
   WBC
   17.0
   22.1
   21.0
   20.3
   Hct
   26.0
   28.1
   30.1
   30.1
   28.2
   Plt
   279
   341
   356
   385
   Cr
   0.7
   0.7
   0.7
   0.6
   0.7
   0.5
   TCO2
   27
   27
   26
   Glucose
   151
   152
   151
   151
   181
   117
   Other labs: PT / PTT / INR:14.7/22.8/1.3, ALT / AST:[**10-26**], Alk Phos / T
   Bili:64/0.6, Differential-Neuts:88.3 %, Lymph:7.6 %, Mono:4.0 %,
   Eos:0.0 %, Lactic Acid:1.2 mmol/L, Albumin:3.2 g/dL, LDH:247 IU/L,
   Ca++:7.9 mg/dL, Mg++:1.7 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   88 yo F with afib on coumadin, HTN, PVD, h/o TIA and colon CA,
   presented with 10 days of URI symptoms, found to be hypoxic, also with
   melena, supratherapeutic INR and dropping HCT, admitted to the [**Hospital Unit Name 10**] for
   respiratory distress and GI bleed.
   .
   # Respiratory distress:   Patient is s/p extubation on [**10-17**],
   supplemental oxygen , saturating well on 4L NC this AM
   - continue ceftriaxone for empiric CAP coverage pending cultures, day
   [**6-15**] day course
   - continue azithromycin for atypical empiric CAP coverage pending
   cultures, day [**5-15**] day course
   - continue albuterol and ipratropium nebs Q 6hrs standing and Q2 hours
   PRN
   - methylprednisolone rapid taper, 25% per day
 today was last day of IV
   steroids
   - patient negative 3.5L over the past 24 hours, appears to be
   mobilizing her edema
 will re-assess I/Os in afternoon and make her
   goal I/O net -1L for the day
   .
   #Acute blood loss anemia [**2-10**] GI bleed:  HCT stable.  Melena in ED
   concerning for upper GI source in the context of supratherapeutic INR.
   S/P vitamin K, FFP in the ED, INR initially dropped to 1.2.   No
   evidence of active bleeding currently, appears stable.
   - hold coumadin in setting of bleed; hold aspirin in case of upcoming
   EGD in next few days
   - ask GI about possible endoscopy over weekend, b/c concerned about
   holding coumadin for too long
 risk of thrombus formation and stroke
   risk
   - continue PPI
   #Leukocytosis:  stable.  Likely elevated WBC from IV steroids, but
   consider possibility of new infection.    Last dose of IV steroids
   today.
   - monitor WBC and fever curve
   .
   #A-fib:  better HR control post extubation
   - on PO metoprolol
   - follow heart rates
   .
   # Hypertension:  At home, on HCTZ, amlodipine and metoprolol.
   Normotensive in ICU
   - can switch to home dose of metoprolol on floor
   - restart amlodipine
   - hold HCTZ for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2183-10-13**] 05:57 PM
   Midline - [**2183-10-14**] 11:32 AM
   Prophylaxis:
   DVT: pnuemoboots and subq heparin
   Stress ulcer:  PPI po
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR, but would tolerate intubation for acute illness
   Disposition:  callout to floor
   ------ Protected Section ------
   MICU Attending Addendum:
   I examined the patient , reviewed  her history and hospital course and
   was present for the key portion of the services provided.  I have also
   reviewed Dr [**Last Name (STitle) 8562**]
s note and agree with her findings and plan of care.
   The patient has improved dramatically over the past few days and is now
   alert, appropriate, engaging and without resp distress.  Her resp
   failure, now resolved seems to have been from a combination for
   pneumonia and CHF and I suspect the latter may have been from Afib and
   anemia from GI bleed in the setting of IV fluid resuscitation.  On exam
   she is still somewhat wet with rales, and we will aim for her I/O to be
   1.5 L neg today. But I wouldn
t dry her out to much too fast while she
   is still coughing up any purulent sputum.  She is now off any stroke
   preventive Rx, given her melena. I would favor an EGD assessment this
   admission if possible and from then decide what form of anticoagulation
   she could be sent home on.
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 549**], MD
   35 min spent in the direct care of this pt
   ------ Protected Section Addendum Entered By:[**Name (NI) 548**] [**Last Name (NamePattern1) 549**], MD
   on:[**2183-10-18**] 14:44 ------